US06403601B1
(e) 2,3-Dimethoxy-5,6,7,8-tetrahydro-1-naphthalenecarbonyl chloride
To a solution of 2,3-dimethoxy-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid (0.20 g, 0.85 mmol) in DCM (5 mL) was added oxalyl chloride (0.09 mL, 1.06 mmol) and 1 drop of DMF. The mixture was stirred at room temperature for 2 h. The solvent was removed in vacuo and the 2,3-dimethoxy-5,6,7,8-tetrahydro-1-naphthalenecarbonyl chloride was used without purification.

reactant | 2,3-dimethoxy-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid | 0.85 mmol, 0.20 g | COC1=C(C=2CCCCC2C=C1OC)C(=O)O | C13H16O4
reactant | oxalyl chloride | 1.06 mmol, 0.09 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | 2,3-Dimethoxy-5,6,7,8-tetrahydro-1-naphthalenecarbonyl chloride | COC1=C(C=2CCCCC2C=C1OC)C(=O)Cl | C13H15ClO3
